*Waveform: 1111
vclk Clk 0 pulse    (0  vdd_value    5n     0.1n    0.1n    5000n     5001n)     
vd  Data 0 pulse    (0  vdd_value    4n     0.1n    0.1n    5000n     5001n)   
vres Reset 0 pulse  (0  vdd_value    3n     0.1n    0.1n    5000n     5001n)   